Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine
 
Attending: ___
 
Chief Complaint:
nausea/vomiting/abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year old female with h/o morbid obesity s/p
gastric bypass ___ years ago with complications now s/p reversal,
s/p CCY, ashtma, tobacco use, DM, and narcotic abuse who p/w 9
days of n/v and inability to tolerate po intake. While in the ED
her dtr ___ called to report that her mother abuses pain meds
and benzos. She was most recently hospitalized at ___ from
___ with abdominal pain, nausea and vomiting. She was 
found
to have moderate fecal loading on CT scan thus started on an
aggressive bowel regimen. She was seen by GI and they 
recommended
that she have an o/p colonoscopy and also direct visualization 
of
the ampulla given her biliary ductal dilatation.
She then saw Dr. ___ in clinic on ___ with plans for an 
o/p
colonoscopy and EGD to look at ampulla but pt did not keep this
appointment because she felt so sick. 
.
Since her last admission she reports that her constipation has
improved because she takes miralax daily, suppositories twice a
week and enemas twice per week. She was also able to eat well
until the day before Mother's Day- she usually eat 6 small meals
per day. After dinner she developed recurrent nausea -> bilious
emesis without blood with the last day of emesis on ___. 
She
has lost 18 lbs since her admission in ___. 
No fevers or chills. She does not report diarrhea but her stool
is loose from her bowel regimen. 
.
She has chronic L mid quadrant abdominal pain ___ which
continues and is no better in spite of the improvement in her
constipation.
.
Over the past two days she developed new supra-pubic pain just
prior to defecating which improves with defecation.
.
She lives with her son in law's mother who was recently 
diagnosed
with measles.
.
She does not have fever or chills. She does not report chest
pain, shortness of breath, coughing, new rashes, 
.
She reports that her reflux is slowly getting better but she is
unable to eat high fiber foods like salad and she is still
sleeping with 6 pillows. 

+ sneezing which she attributes to allergies
+ bruising when she takes lovenox. 

In ER: (Triage Vitals:4 97.6 92 92/45 18 98% RA  ) 
Meds Given: Ondansetron 2mg/mL-2mL /Acetaminophen 325mg Tablet x
2, Ondansetron 2mg/mL-2mL, Acetaminophen (Liquid) 650mg UD Cup 
.
Fluids given: 
Radiology Studies: Adominal CT scan 
consults called: none
.
PAIN SCALE: ___
 
Past Medical History:
-Morbid obesity (max 448lbs) s/p gastric bypass & CCY ___ at  
___ and complete reversal  
-History of HTN, DM, asthma (prior to gastric bypass)  
-Opiate addiction: prior intranasal herion, oral dilaudid abuse, 
now on methadone  
-Depression/Anxiety  
-Esophagitis: EGD ___ showed mild active esophagitis.
-DVT/PE ___  
-DJD  
-2 SBOs  
-Menopause completed  

Past Surgical History:  
-___- gastric bypass & CCY and subsequent complete  
reversal  
-7 surgeries on the abdomen. "stomach leak" hernia, 2 SBOs,  
attempted reverse of the gastric bypass, the most recent in ___
 
Social History:
___
Family History:
Mother with diabetes and HTN.
 
Physical Exam:
PHYSICAL EXAM:  
VITAL SIGNS: 
PAIN SCORE ___ L sided mid abdomen
.
1. VS:  T = 97.8 P = 71 BP = 92/66 RR = 18 O2Sat on  _100% on RA 

GENERAL: Thin chronically ill appearing female laying in bed.  
Mentation: alert, speaks in full sentences
2. Eyes: [] WNL 
PERRL, EOMI without nystagmus, Conjunctiva:
clear/injection/exudates/icteric Ears/Nose/Mouth/Throat: MMM, no
lesions noted in OP  
3. ENT [] WNL
[] Moist  [] Endentulous  [] Ulcers  [] Erythema  [] JVD ____ cm
[X] Dry  [] Poor dentition  [] Thrush  [] Swelling  [] Exudate
4. Cardiovascular [] WNL
[X] Regular  [] Tachy  [X] S1 [X] S2 [-] Systolic Murmur     /6,
Location:
[] Irregular  []Brady []S3  [] S4  [] Diastolic Murmur    /6,
Location:
[X] Edema RLE  None 
[X] Edema LLE None 
[] Vascular access  [X] Peripheral [] Central site:
5. Respiratory [X ]WNL
[] CTA bilaterally  [ ] Rales  [ ] Diminshed
[] Comfortable     [ ] Rhonchi   [ ] Dullness
[ ] Percussion WNL  [ ] Wheeze   [] Egophony
6. Gastrointestinal [ ] WNL
nabs, soft, redundant skin present, 
Well healed remote midline surgical scar
L mid quadrant tenderness with moderate palptaion. 
[] Soft/firm  [- Rebound [] No hepatomegaly  [] Non-tender []
Tender [] No splenomegaly
[] Non distended  [] distended  [] bowel sounds Yes/No  [] 
guiac:
positive/negative
7. Musculoskeletal-Extremities [] WNL
[ ] Tone WNL  [XUpper extremity strength ___ and symmetrical  [
]Other:

[ ] Bulk WNL    [X] Lower extremity strength ___ and symmetrica 
[
] Other:

[] Normal gait  []No cyanosis  [ ] No clubbing  [] No joint
swelling

8. Neurological [] WNL

[X ] Alert and Oriented x 3 [ ] Romberg: Positive/Negative  [ ]
CN II-XII intact  [+ ] Normal attention  [ ] FNF/HTS WNL []
Sensation WNL  [ ] Delirious/confused  [ ] Asterixis
Present/Absent  [ ] Position sense WNL

[ ] Demented  [ ] No pronator drift  [] Fluent speech
She has a delayed response to questions but speech is logical. 
9. Integument  [X] WNL
[] Warm  [] Dry  [] Cyanotic [] Rash:
none/diffuse/face/trunk/back/limbs  
[ ] Cool [] Moist  [] Mottled  [] Ulcer:
None/decubitus/sacral/heel: Right/Left
10. Psychiatric [X] WNL

[X] Appropriate [] Flat affect [] Anxious [] Manic [] 
Intoxicated
[] Pleasant [] Depressed [] Agitated [] Psychotic 

[] Combative

11. Hematologic/Lymphatic  [ ]WNL

[] No cervical ___ [] No axillary ___  [] No supraclavicular ___
[] No inguinal ___ [] Thyroid WNL [] Other:
. 

 
Pertinent Results:
139  ___   AGap=14 
----------------
3.3  26  1.1  
Comments: Glucose: If Fasting, 70-100 Normal, >125 Provisional
Diabetes 

estGFR: 53/64 (click for details)  
Ca: 9.6 Mg: 1.7 P: 5.0
ALT: 13 AP: 82 Tbili: 0.2 Alb: 4.1 
AST: 27 LDH:  Dbili:  TProt:  
___:  Lip: 281     

___: 11.6  PTT: 32.3  INR: 1.1  

 97 
6.9 ___  12.0  227 
  
 /38.8\\  
 N:71.0 L:24.5 M:3.3 E:0.8 Bas:0.4 

CT abd/pelvis with contrast
IMPRESSION:
 
1.  No acute abdominal or pelvic pathology, with no evidence of 
obstruction or
perforation.
 
2.  Stable central intrahepatic biliary dilatation.
 

OLD STUDIES
___
 EGD: Mild esophagitis in the lower third of the
esophagus, biopsies performed. Previous gastric bypass of the
stomach, with a small (1-2 cm) remnant stomach and a
gastrojejunal anastamosis. Erythema of the mucosa in the remnant
stomach, biopsies performed. 

EUS: Dilated pancreas duct to 3.2 mm in the pancreas body,
otherwise normal. Normal pancreas parenchyma and ___
vasculature. The common bile duct and pancreas head and uncinate
process could not be imaged due to altered gastric anatomy.
Otherwise normal EGD and upper EUS to jejunum.

MRCP: ___
Intrahepatic bile duct dilatation and extrahepatic bile duct
dilatation which 
is mild to moderate and overall similar when compared to the
prior examination 
from ___ with areas of focal narrowing similar to
previous. Main 
pancreatic duct is also dilated to 4 mm, similar to previous. No
obstructing 
stones are seen. Status post cholecystectomy. Previous gastric
bypass 
surgery with reversal. Remainder findings similar to previous.  

 
Brief Hospital Course:
___ yo woman with history of gastric bypass s/p reversal and 
chronic abdominal pain, constipation, esophagitis, who presents 
with worsened abdominal pain (including epigastrum), nausea, 
vomiting
.
#Abdominal pain
#Acute pancreatitis vs. sphincter of Oddi dysfunction vs. other
#Known esophagitis
#hx gastric bypass with reversal surgery
#known stable intra- and extra-hepatic biliary dilation, known 
PD dilation

Exact cause of pain is not clear, but she was initially treated 
for possible acute pancreatitis based on elevated lipase >3x 
upper limit of normal (bowel rest, IVF, supportive care).  
Interestingly, her lipase normalized rapidly by the next day and 
she also reported feeling hungry, improved n/v.  She was seen by 
our GI consultants as well who also considered whether she might 
have an element of sphincter of Oddi dysfunction or ampullary 
stenosis.  They recommended slowly advancing diet as tolerated, 
no plans for endoscopic studies in-house (especially during 
acute exacerbation), and close f/u with GI Dr. ___ 
consideration of repeat EGD/EUS (ampulla and CBD not visualized 
last time due to changed anatomy) with possible colonoscopy (hx 
Fe deficiency anemia).

She is now tolerating a regular diet.  We have recommended low 
fat diet with frequent small meals.  

#DVT/PE - continued on lovenox (sub therapeutic INR) and 
coumadin.  She missed dose of coumadin on ___, held in case any 
studies planned.
.
Esophagitis:  continued PPI
.
Chronic pain: now off narcotics, tapered off methadone as outpt. 
 Continue neurontin.  GI also recommended consideration of 
tricyclic such as amitriptyline for control of chronic pain.  We 
avoided opioids during this admission due to her well-reported 
past history of narcotic abuse.  She did receive several doses 
of tramadol in-house which she felt helped her pain, but after 
discussion with her PCP, we decided no further tramadol as an 
outpt due to the potential for drug-drug interactions with her 
psychotropic meds.

.
Anxiety and depression 
Continue bupropion/clonazepam/remeron
.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q4-6H: PRN pain 
2. Bisacodyl 10 mg PO BID:PRN constipation 
3. BuPROPion (Sustained Release) 150 mg PO QAM 
4. ClonazePAM 1 mg PO TID 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Doxepin HCl 75 mg PO HS 
8. Enoxaparin Sodium 70 mg SC Q12H 
9. Fleet Enema ___AILY:PRN constipation 
10. Furosemide 40 mg PO DAILY 
11. Gabapentin 600 mg PO Q8H 
12. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN 
odynophagia  
13. Mirtazapine 22.5 mg PO HS 
14. Omeprazole 40 mg PO BID 
15. Polyethylene Glycol 17 g PO BID 
16. QUEtiapine Fumarate 100 mg PO QAM 
17. QUEtiapine Fumarate 300 mg PO QHS 
18. Senna 8.6 mg PO BID 
19. Sucralfate 1 gm PO QID 
20. Multivitamins W/minerals 1 TAB PO DAILY 
21. Ondansetron 8 mg PO Q8H:PRN nausea 
22. Thiamine 100 mg PO DAILY 
23. Vitamin D 1000 UNIT PO DAILY 
24. Warfarin 13 mg PO DAILY16 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4-6H: PRN pain 
2. Bisacodyl 10 mg PO BID:PRN constipation 
3. BuPROPion (Sustained Release) 150 mg PO QAM 
4. ClonazePAM 1 mg PO TID 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
7. Doxepin HCl 75 mg PO HS 
8. Enoxaparin Sodium 70 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
9. Fleet Enema ___AILY:PRN constipation 
10. Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN 
odynophagia  
11. Mirtazapine 22.5 mg PO HS 
12. Multivitamins W/minerals 1 TAB PO DAILY 
13. Polyethylene Glycol 17 g PO BID 
14. QUEtiapine Fumarate 100 mg PO QAM 
15. QUEtiapine Fumarate 300 mg PO QHS 
16. Senna 8.6 mg PO BID 
17. Sucralfate 1 gm PO QID 
18. Thiamine 100 mg PO DAILY 
19. Vitamin D 1000 UNIT PO DAILY 
20. Warfarin 13 mg PO DAILY 
21. Furosemide 40 mg PO DAILY 
22. Gabapentin 600 mg PO Q8H 
RX *gabapentin 600 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0
23. Omeprazole 40 mg PO BID 
24. Ondansetron 8 mg PO Q8H:PRN nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*15 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic abdominal pain
Acute pancreatitis vs. sphincter of Oddi dysfunction

Secondary:
hx of gastric bypass surgery with reversal
hx deep vein thrombosis/pulmonary embolism

 
Discharge Condition:
condition: stable
mental status: oriented x 3
ambulatory: independent

 
Discharge Instructions:
You were admitted with an exacerbation of your abdominal pain.  
Although we do not know the exact cause of this episode, it may 
be due to some mild pancreatitis (now resolved on your labs), or 
some spasms of the outlet area of your biliary tract (sphincter 
of Oddi).  Our GI physicians evaluated you during your stay as 
well.  They recommend that you followup with Dr. ___ 
anticipate that he may wish to discuss an endoscopy (EGD) with 
ultrasound (EUS), and possibly a colonoscopy as well in the 
future.

Please keep your followup appointment with your PCP as well.  

 
Followup Instructions:
___